US04721788
N-(2-Chloroethyl)-4-cyanopiperidine
1-Bromo-2-chloroethane (2.6 ml) and potassium carbonate (6.6 g) were added to a solution of 4-cyanopiperidine (2.63 g) in isopropanol (50 ml), followed by refluxing for 10 hours. The reaction mixture was concentrated under reduced pressure. After adding a 50% aqueous solution of potassium carbonate to the residue, the resulting mixture was extracted with diethyl ether. The extract was washed with saturated saline, followed by an addition of anhydrous potassium carbonate to dry the diethyl ether solution. The thus-dried diethyl ether solution was concentrated under reduced pressure. The residue was purified by silica gel chromatography (developer: methanol-chloroform) to obtain 0.31 g of the desired product in an oily form.

reactant | 1-Bromo-2-chloroethane | 2.6 ml | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 6.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-cyanopiperidine | 2.63 g | C(#N)C1CCNCC1 | C6H10N2
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | N-(2-Chloroethyl)-4-cyanopiperidine | 0.31 g | ClCCN1CCC(CC1)C#N | C8H13ClN2
